* source MOSFET
M_T         N00185 N00493 N000400 N000400 M2N7000
R_Rs1         0 N00256  1k TC=0,0 
R_RL         0 N00216  5.1k TC=0,0 
C_C2         N00185 N00216  4.7uF  TC=0,0 
C_C3         0 N00256  47uF  TC=0,0 
V_V1         N00435 0 12Vdc
R_Rg2         0 N00493  100k TC=0,0 
R_Rg1         N00493 N00972  100k TC=0,0 
V_Vi         N00658 0  
+SIN 0 30mv 1kHz 0 0 0
C_C1         N00658 N00493  1uF  TC=0,0 
R_Rd         N00185 N00435  5.1k TC=0,0 
R_Rp         N00972 N00435 {470k*0.5+.001}
R_Rs2         N00256 N000400  51 TC=0,0 
